US08466181B2
N-Cyclopropyl-6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinamide
As described for example 36b, 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (65 mg, 0.178 mmol) was converted, using cyclopropylamine instead of isopropylamine, to the title compound (27 mg, 38%) which was obtained as an off white solid. MS: m/e=404.2 [M+H]+.

reactant | 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.178 mmol, 65 mg | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinamide | 27 mg, 38% | C1(CC1)NC(C1=CN=C(C=C1)N1C=NC(=C1)C1=C(N=NN1C1=CC=C(C=C1)F)C)=O | C21H18FN7O
